US07781673B2
Synthesis of 4,4-Bis-(2-ethyl-hexyl)-4H-cyclopenta[2,1-b;3,4-b′]dithiophene
4H-Cyclopenta[2,1-b;3,4-b′]dithiophene (1.5 g, 0.00843 mol) was dissolved in DMSO (50 mL). After the solution was purged with nitrogen, and grounded KOH (1.89 g, 0.0337 mol), sodium iodide (50 mg), and 2-ethylhexyl bromide (3.25 g, 0.0169 mol) were sequentially added. The reaction mixture was stirred overnight under nitrogen (c.a. 16 hours). Water was added and the reaction was extracted with t-butylmethyl ether. The organic layer was collected, dried over magnesium sulfate, and concentrated. The residue was purified by chromatography using hexanes as eluent. Fractions containing pure 4,4-Bis-(2-ethyl-hexyl)-4H-cyclopenta[2,1-b;3,4-b′]dithiophene product were combined and concentrated. The product was obtained as a colorless oil after drying under vacuum. Yield: 2.68 g (79%). 1H NMR (CDCl3, 250 MHz): 7.13 (m, 2H), 6.94 (m, 2H), 1.88 (m, 4H), 0.94 (m, 16H), 0.78 (t, 6.4 Hz, 6H), 0.61 (t, 7.3 Hz, 6H).

reactant | 4H-Cyclopenta[2,1-b;3,4-b′]dithiophene | 0.00843 mol, 1.5 g | S1C2=C(C=C1)CC1=C2SC=C1 | C9H6S2
reactant | KOH | 0.0337 mol, 1.89 g | [OH-].[K+]
reactant | sodium iodide | 50 mg | [I-].[Na+]
reactant | 2-ethylhexyl bromide | 0.0169 mol, 3.25 g | C(C)C(CBr)CCCC | C8H17Br
solvent | DMSO | 50 mL | CS(=O)C | C2H6OS
solvent | Water | O | H2O
product | 4,4-Bis-(2-ethyl-hexyl)-4H-cyclopenta[2,1-b;3,4-b′]dithiophene | C(C)C(CC1(C2=C(SC=C2)C=2SC=CC21)CC(CCCC)CC)CCCC | C25H38S2
